US04581354
A solution of 28.7 g. (0.177 mole) of benzoylacetone and 23.2 ml. (0.177 mole) of 2-(4-morpholinyl)ethylamine in 600 ml. of toluene was heated under reflux for ten and a half hours under a Dean-Stark trap and the solution then cooled and taken to dryness to give N-[2-(4-morpholinyl)ethyl]-N-(1-methyl-3-oxo-3-phenylpropenyl)amine as a yellow solid.

reactant | benzoylacetone | 0.177 mole | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | 2-(4-morpholinyl)ethylamine | 0.177 mole | N1(CCOCC1)CCN | C6H14N2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[2-(4-morpholinyl)ethyl]-N-(1-methyl-3-oxo-3-phenylpropenyl)amine | N1(CCOCC1)CCNC(=CC(C1=CC=CC=C1)=O)C | C16H22N2O2
